US06551682B1
A reaction flask was loaded with 2,2,3,3,4,4,5,5-octafluoropentanol (16.1 g), DMF (42 ml), anhydrous potassium carbonate (9.6 g), followed by stirring at room temperature for one hour. To this mixture, 2,6-difluoropyridine (8.0 g) was dropwise added. The temperature was raised to 60° C., and the mixture was stirred for four hours. The heating was stopped, and water was added to the reaction mixture, followed by extraction with ethyl acetate. The extract was condensed by an evaporator to give 2-fluoro-6-(2,2,3,3,4,4,5,5-octafluoropentyloxy)-pyridine (20 g).

reactant | 2,2,3,3,4,4,5,5-octafluoropentanol | 16.1 g | FC(CO)(C(C(C(F)F)(F)F)(F)F)F | C5H4F8O
reactant | DMF | 42 ml | CN(C)C=O | C3H7NO
reactant | potassium carbonate | 9.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2,6-difluoropyridine | 8.0 g | FC1=NC(=CC=C1)F | C5H3F2N
solvent | water | O | H2O
product | 2-fluoro-6-(2,2,3,3,4,4,5,5-octafluoropentyloxy)-pyridine | 20 g | FC1=NC(=CC=C1)OCC(C(C(C(F)F)(F)F)(F)F)(F)F | C10H6F9NO
